US04006245
To a hot solution of 4.328 parts of 8-(3 -2-t-butylphenoxy -2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2carboxylic acid in 250 parts of ethanol was added a solution of 0.882 parts of sodium bicarbonate in 50 parts of water. The resulting solution was filtered and allowed to cool to give 4.0 parts of sodium 8-(3-[2-t-butylphenoxy]-2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2-carboxylate sesquihydrate after collecting and drying over phosphorus pentoxide.

reactant | 8-(3 -2-t-butylphenoxy -2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2carboxylic acid | C(C)(C)(C)C1=C(OCC(COC2=CC=CC=3C(C=C(OC32)C(=O)O)=O)O)C=CC=C1 | C23H24O7
reactant | ethanol | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 8-(3-[2-t-butylphenoxy]-2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2-carboxylate sesquihydrate | O.C(C)(C)(C)C1=C(OCC(COC2=CC=CC=3C(C=C(OC32)C(=O)[O-])=O)O)C=CC=C1.[Na+].O.O.[Na+].C(C)(C)(C)C1=C(OCC(COC3=CC=CC=2C(C=C(OC23)C(=O)[O-])=O)O)C=CC=C1 | InChI=1S/2C23H24O7.2Na.3H2O/c2*1-23(2,3)16-8-4-5-9-18(16)28-12-14(24)13-29-19-10-6-7-15-17(25)11-20(22(26)27)30-21(15)19;;;;;/h2*4-11,14,24H,12-13H2,1-3H3,(H,26,27);;;3*1H2/q;;2*+1;;;/p-2
